US05998439
Synthesis of 4-(1-(pyrid-2-ylmethyl)-1H-benzimidazole-2-carbonyl)piperidine hydriodic acid salt
Combine 1-(t-butoxycarbonyl)-4-(1-(pyrid-2-ylmethyl)-1H-benzimidazole-2-carbonyl)piperidine (1.96 g, 4.7 mmol) and dichloromethane (150 mL). Cool to 0° C. using an ice bath. Add hydriodic acid (gas) until the solution is saturated and stir. After 30 minutes, again add hydriodic acid (gas) until the solution is saturated. After 2 hours, evaporate in vacuo to give, after drying, the title compound: mp 165-167° C.

reactant | 1-(t-butoxycarbonyl)-4-(1-(pyrid-2-ylmethyl)-1H-benzimidazole-2-carbonyl)piperidine | 4.7 mmol, 1.96 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)C1=NC2=C(N1CC1=NC=CC=C1)C=CC=C2 | C24H28N4O3
reactant | hydriodic acid | I | HI
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 4-(1-(pyrid-2-ylmethyl)-1H-benzimidazole-2-carbonyl)piperidine hydriodic acid salt | I.N1=C(C=CC=C1)CN1C(=NC2=C1C=CC=C2)C(=O)C2CCNCC2 | InChI=1S/C19H20N4O.HI/c24-18(14-8-11-20-12-9-14)19-22-16-6-1-2-7-17(16)23(19)13-15-5-3-4-10-21-15;/h1-7,10,14,20H,8-9,11-13H2;1H
